US07470680B2
1-(piperidin-4-yl)-1H-imidazol-2(3H)-one hydrochloride.
tert-Butyl 4-(3-(2,2-dimethoxyethyl)ureido)piperidine-1-carboxylate (1.62 g, 4.89 mmol) was suspended in water (15 ml). Concentrated hydrochloric acid (15 ml, 183 mmol) was added to the mixture. Reaction was held at room temperature for 20 minutes. Mixture was concentrated by roto-vap. Residue was treated with ethanol and the mixture was then concentrated by roto-vap. Residue was treated with ethyl acetate and then concentrated to dryness. Resulting yellow oil was triturated in 80% acetone-diethyl ether. After 10 minutes a consistent solid was formed. Solids were filtered off and washed with acetone. Solids were dried in vacuo. Title compound was obtained as off-white solid in 99% yield. MS (M+H)+=168.1.

reactant | tert-Butyl 4-(3-(2,2-dimethoxyethyl)ureido)piperidine-1-carboxylate | 4.89 mmol, 1.62 g | COC(CNC(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)OC | C15H29N3O5
reactant | hydrochloric acid | 183 mmol, 15 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 1-(piperidin-4-yl)-1H-imidazol-2(3H)-one hydrochloride | 99% yield | Cl.N1CCC(CC1)N1C(NC=C1)=O | InChI=1S/C8H13N3O.ClH/c12-8-10-5-6-11(8)7-1-3-9-4-2-7;/h5-7,9H,1-4H2,(H,10,12);1H
